US04064261
s-Triazolo(3,4-b)benzothiazole-3-thiol
2-Hydrazinobenzothiazole (300 grams), potassium hydroxide (100 grams), and 225 milliliters of carbon disulfide were refluxed for 60 hours in 5500 milliliters of ethanol. A light yellow solid began precipitating out shortly after the beginning of reflux. The solid was collected by filtration and dissolved in water to which 1500 milliliters of 0.5N hydrochloric acid were added. The mixture thickened; the desired s-triazolo(3,4-b)benzothiazole-3-thiol product was collected by filtration, m.p., 242° C.

reactant | 2-Hydrazinobenzothiazole | 300 grams | N(N)C=1SC2=C(N1)C=CC=C2 | C7H7N3S
reactant | potassium hydroxide | 100 grams | [OH-].[K+]
reactant | carbon disulfide | 225 milliliters | C(=S)=S | CS2
solvent | ethanol | 5500 milliliters | C(C)O | C2H6O
product | s-Triazolo(3,4-b)benzothiazole-3-thiol | N=1N=C(N2C1SC1=C2C=CC=C1)S | C8H5N3S2
